US04269980
5-[3-(Trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-c]pyrimidine
The general procedure of Example 1 is repeated: A solution of 0.300 g. of 4-hydrazino-2-[3-(trifluoromethyl)phenyl]pyrimidine and 1 ml. of diethoxymethyl acetate is stirred at room temperature for 24 hours. The mixture is diluted with an excess of petroleum ether and the precipitate which forms is collected after 20-30 minutes to give 0.182 g. of the product of the example; m.p. 145°-146° C. when recrystallized from chloroform/hexane.

reactant | 4-hydrazino-2-[3-(trifluoromethyl)phenyl]pyrimidine | N(N)C1=NC(=NC=C1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 5-[3-(Trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-c]pyrimidine | FC(C=1C=C(C=CC1)C1=NC=CC=2N1C=NN2)(F)F | C12H7F3N4
